US08629271B2
a) tert-Butyl 4-((2-bromo-2,2-difluoroacetamido)methyl)-4-hydroxypiperidine-1-carboxylate
A solution of tert-butyl 4-(aminomethyl)-4-hydroxypiperidine-1-carboxylate (1.702 g) in DMF (20 mL) at 20° C. was treated with ethyl 2-bromo-2,2-difluoroacetate (1.5 g) and the mixture stirred for 90 minutes at 20° C. under nitrogen. The mixture was partitioned between ethyl acetate and brine, the organic layer was washed twice with brine, dried over sodium sulphate, filtered and the solvent evaporated under reduced pressure to afford the subtitled compound. Yield 2.5 g.

reactant | tert-butyl 4-(aminomethyl)-4-hydroxypiperidine-1-carboxylate | 1.702 g | NCC1(CCN(CC1)C(=O)OC(C)(C)C)O | C11H22N2O3
reactant | ethyl 2-bromo-2,2-difluoroacetate | 1.5 g | BrC(C(=O)OCC)(F)F | C4H5BrF2O2
solvent | DMF | 20 mL | CN(C)C=O | C3H7NO
product | tert-Butyl 4-((2-bromo-2,2-difluoroacetamido)methyl)-4-hydroxypiperidine-1-carboxylate | BrC(C(=O)NCC1(CCN(CC1)C(=O)OC(C)(C)C)O)(F)F | C13H21BrF2N2O4
